US06656938B2
Under a nitrogen atmosphere, tert-butyl 4-{2-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butoxy]ethyl}piperidine-1-carboxylate (1.00 g, 2.1 mmol) and 2N ethanolic hydrochloric acid (10 ml, 20 mmol) were combined and the solution was stirred at ambient temperature for 14 hours. The solvent was removed in vacuo and the resulting tan solid was dissolved in water. Saturated aqueous sodium carbonate was added until the pH reached 10. After extraction with dichloromethane (3×), the organic fractions were combined, washed with brine, dried (Na2SO4), filtered, and the majority of the solvent was removed in vacuo. Hexane was added to form a precipitate. Vacuum filtration yielded 0.5 g of 1-{1-[(2-piperidin-4-ylethoxy)methyl]propyl}-1H-imidazo[4,5-c]quinolin-4-amine as a tan powder.

reactant | tert-butyl 4-{2-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butoxy]ethyl}piperidine-1-carboxylate | 2.1 mmol, 1.00 g | NC1=NC=2C=CC=CC2C2=C1N=CN2C(COCCC2CCN(CC2)C(=O)OC(C)(C)C)CC | C26H37N5O3
reactant | hydrochloric acid | 20 mmol, 2N, 10 ml | Cl | ClH
product | 1-{1-[(2-piperidin-4-ylethoxy)methyl]propyl}-1H-imidazo[4,5-c]quinolin-4-amine | 0.5 g | N1CCC(CC1)CCOCC(CC)N1C=NC=2C(=NC=3C=CC=CC3C21)N | C21H29N5O
